US06784137B2
N-Bromosuccinimide (0.377 g, 2.13 mmol) was added all at once to a solution of methyl 4-acetamido-3-chloro-6-(1-ethoxyvinyl)pyridine-2-carboxylate (0.636 g, 2.13 mmol) in THF (40 mL) and water (2 mL) at room temperature. After 15 minutes, the reaction mixture was concentrated and the residue partitioned between dichloromethane and water. The organic layer was separated, dried (MgSO4), and concentrated to provide methyl 4-acetamido-3-chloro-6-(bromoacetyl)pyridine-2-carboxylate (0.714 g, 2.04 mmol). 1H NMR (CDCl3): δ 9.12 (s, 1H), 7.99 (br.s, 1H), 4.82 (s, 2H), 4.06 (s, 3H), 2.36 (s, 3H).

reactant | N-Bromosuccinimide | 2.13 mmol, 0.377 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methyl 4-acetamido-3-chloro-6-(1-ethoxyvinyl)pyridine-2-carboxylate | 2.13 mmol, 0.636 g | C(C)(=O)NC1=C(C(=NC(=C1)C(=C)OCC)C(=O)OC)Cl | C13H15ClN2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | methyl 4-acetamido-3-chloro-6-(bromoacetyl)pyridine-2-carboxylate | 2.04 mmol, 0.714 g | C(C)(=O)NC1=C(C(=NC(=C1)C(CBr)=O)C(=O)OC)Cl | C11H10BrClN2O4
